US09079866B2
N-[1-({[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]methyl}sulfonyl)piperidin-4-yl]-acetamide formate salt
The title compound was prepared using analogous conditions to those described in Example 1 utilizing 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine and N-(1-((2-bromobenzyl)sulfonyl)piperidin-4-yl)acetamide. MS (ESI): mass calcd. for C24H26FN5O3S, 483.17; m/z found, 484.0 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 8.39 (s, 1H), 8.03 (d, J=1.3, 1H), 7.95 (m, 1H), 7.81 (d, J=7.3, 1H), 7.64-7.55 (m, 1H), 7.50-7.31 (m, 5H), 6.73 (s, 2H), 4.35 (s, 2H), 3.71-3.56 (m, 1H), 3.39 (d, J=11.6, 2H), 2.79 (t, J=10.8, 2H), 1.82-1.67 (m, 5H), 1.41-1.24 (m, 3H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | N-(1-((2-bromobenzyl)sulfonyl)piperidin-4-yl)acetamide | BrC1=C(CS(=O)(=O)N2CCC(CC2)NC(C)=O)C=CC=C1 | C14H19BrN2O3S
product | N-[1-({[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]methyl}sulfonyl)piperidin-4-yl]-acetamide formate salt | C(=O)O.NC=1N=CC(=NC1)C1=C(C=C(C=C1)C1=C(C=CC=C1)CS(=O)(=O)N1CCC(CC1)NC(C)=O)F | InChI=1S/C24H26FN5O3S.CH2O2/c1-16(31)29-19-8-10-30(11-9-19)34(32,33)15-18-4-2-3-5-20(18)17-6-7-21(22(25)12-17)23-13-28-24(26)14-27-23;2-1-3/h2-7,12-14,19H,8-11,15H2,1H3,(H2,26,28)(H,29,31);1H,(H,2,3)
